US08859784B2
To a 50-mL 3-neck flask under air was added 25 mL of 100 mM pH 8.0 potassium phosphate buffer and 400 mg of octahydrocyclopenta[c]pyrrole hydrochloride, 500 mg of Na2S2O5 and the pH was adjusted to approximately 7.5 with 10N NaOH. To the pH adjusted solution was added 30 μL of A. niger catalase suspension (Sigma Aldrich; catalog number C-3515) and 300 mg of monoamine oxidase powder (prepared by the method of Example 2 (with SEQ ID NO 10 in pH 8.0 potassium phosphate buffer. The resulting pale yellow solution was stirred under air for 24 hours during which time the pH was maintained at 7.5 via feedback controlled addition of 1N NaOH in 1-5 μL portions. After stirring for 48 hours, 300 mg of NaCN was added to the reaction mixture raising the pH to ˜9.9. After stirring at room temperature (about 21° C.) for an additional 1 hour, the mixture was extracted with ethyl acetate. After phase separation and solvent evaporation, 316 mg of octahydrocyclopenta[c]pyrrole-1-carbonitrile was isolated (82% yield). 1H-NMR showed ˜90% (1S,3aR,6aS), “trans” and ˜10% of the (1R,3aR,6aS) epimer, “cis.” (1H-NMR (300 MHz, CDCl3) spectrum: δ 3.95 (d, J=6.6, cis aminonitrile methine H), 3.62 (d, J=1.2; trans aminonitrile methine H), 3.15 (m, 1H), 2.71 (m, 2H), 2.62 (m, 1H), 1.63-1.92 (m, 3H), 1.55 (m, 1H), 1.22-1.45 (m, 3H)).

reactant | octahydrocyclopenta[c]pyrrole hydrochloride | 400 mg | Cl.C1NCC2C1CCC2
reactant | NaOH | 10N | [OH-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | NaCN | 300 mg | [C-]#N.[Na+]
solvent | potassium phosphate | pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 100 mM, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | octahydrocyclopenta[c]pyrrole-1-carbonitrile | 316 mg, 82% yield | C1(NCC2C1CCC2)C#N | C8H12N2
